US05215982
7-Cyano-1H-imidazo[1,2-b]pyrazole (3 g) was added to conc. sulfuric acid under ice-cooling. The mixture was stirred at room temperature for 45 minutes. The reaction mixture was cooled at 0°-5° C. and carefully poured into ice water (30 ml). The aqueous solution was neutralized with conc. ammonium hydroxide solution and stirred for 1 hour under ice-cooling. The precipitate was collected, washed with cold water and dried over phosphorus pentoxide in vacuo to give 7-carbamoyl-1H-imidazo[1,2-b]pyrazole (3.45 g).

reactant | 7-Cyano-1H-imidazo[1,2-b]pyrazole | 3 g | C(#N)C1=C2N(N=C1)C=CN2 | C6H4N4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 7-carbamoyl-1H-imidazo[1,2-b]pyrazole | 3.45 g | C(N)(=O)C1=C2N(N=C1)C=CN2 | C6H6N4O
